US09145433B2
A single necked round bottom flask (250 mL) equipped with a magnetic stir bar was charged with tert-butyl 5-bromo-1H-indazole-carboxylate (4.0 g, 13.4 mmol) dissolved in 1,4-dioxane (130 mL), 2-chloro-3-pyridine boronic acid pinacol ester (4 g, 16.7 mmol), Pd(PPh3)4 (1.5 g, 1.3 mmol) and 2M aq.Na2CO3 (20 mL, 40 mmol) under nitrogen atmosphere. The rubber septum was replaced with reflux condenser containing three-way stopcock equipped with argon filled balloon. The reaction contents were stirred and air was removed from the closed reaction system by vacuum and back filled with argon. Following three cycles of degassing, the reaction mixture was heated at 100° C. (oil-bath) under argon. Inflated argon balloon was emptied, refilled with argon and remounted in the course of reaction. The initial pale yellow heterogeneous reaction mixture turned to clear biphasic off-brown solution. After 18 h with no additional change in the proportion of the product (62%) as analyzed by LC/MS, the reaction mixture was cooled to room temperature. Upon concentration of the reaction mixture, EtOAc/water (200 mL/75 mL) was transferred to the concentrate and stirred for 30 min. The organic layer was separated and the aqueous layer extracted with EtOAc (100 mL×2). MgSO4 (20g) and Celite® (20g) were added to combined organic layers and the contents suction filtered after stirring for 1 h. The filter cake was washed with EtOAc (300 mL) and the combined filtrates concentrated by rotary evaporator under vacuum. The crude concentrate was dissolved in 1% MeOH/CH2Cl2 and absorbed on silica gel (20g) by evaporating the solvent followed by drying. Subsequent purification by flash silica gel column purification of the dry powder (Combiflash® companion System® with RediSep® silica gel column 120 g, 30-70% EtOAC/hexanes eluting solvent) provided 5-(2-chloropyridin-3-yl)-1H-indazole (1.5 g, 47%) as a white crystalline solid after concentration of the desired product fractions. 1H NMR (DMSO-d6): δ 13.2 (s, 1H), 8.41 (dd, 1H, J=1.8 and 4.7 Hz), 8.13 (s, 1H), 7.90 (dd, 1H, J=1.7 and 4.7 Hz), 7.84 (s, 1H), 7.62 (d, 1H, J=8.8 Hz), 7.51 (dd, 1H, J=4.7 and 7.3 Hz), 7.42 (dd, 1H, J=1.4 and 8.5 Hz). LCMS: 95%, MS (m/e) 230 (MH+).

reactant | tert-butyl 5-bromo-1H-indazole-carboxylate | 13.4 mmol, 4.0 g | BrC=1C=C2C(=NNC2=CC1)C(=O)OC(C)(C)C | C12H13BrN2O2
reactant | 2-chloro-3-pyridine boronic acid pinacol ester | 16.7 mmol, 4 g | ClC1=NC=CC=C1B1OC(C)(C)C(C)(C)O1 | C11H15BClNO2
reactant | Na2CO3 | 40 mmol, 20 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOAc water | 200 mL | CCOC(=O)C.O
solvent | 1,4-dioxane | 130 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 1.3 mmol, 1.5 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(2-chloropyridin-3-yl)-1H-indazole | 1.5 g, 47% | ClC1=NC=CC=C1C=1C=C2C=NNC2=CC1 | C12H8ClN3
